US03946004
A solution of 4-chlorophenothiazine (32.3 g., 0.134 mole) and 2-pyrrolidinone (23 g., 0.27 mole) in 125 ml. of 1,2-dichloroethane is added dropwise to a solution of phosphorus oxychloride (20.5 g., 0.134 mole) in 50 ml. of 1,2-dichloroethane in about 35 min. Isolation of the product from the reaction mixture according to the procedure of Example 1 provides 7.5 g., (17.1% yield) of 4-CHLORO-10-[1-(1-PYRROLIN-2YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE free base, m.p. 195°-197° C. Analytically pure 4-CHLORO-10-[1(1-PYRROLIN-2-YL)-2PYRROLIN-2-YL]PHENOTHIAZINE HYDROCHLORIDE obtained by crystallization from ethanol-ether has a melting point of 232°-234° C. (corr.). Analysis. Calcd. for C20H18ClN3S.HCl (percent): C, 59.41; H, 4.74; N, 10.39; Cl, 17.53. Found (percent): C, 59.20; H, 4.74; N, 10.59; Cl, 17.46.

reactant | 4-chlorophenothiazine | 0.134 mole, 32.3 g | ClC1=CC=CC=2NC3=CC=CC=C3SC12 | C12H8ClNS
reactant | 2-pyrrolidinone | 0.27 mole, 23 g | N1C(CCC1)=O | C4H7NO
reactant | phosphorus oxychloride | 0.134 mole, 20.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-CHLORO-10-[1-(1-PYRROLIN-2YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE | 17.1% yield | ClC1=CC=CC=2N(C3=CC=CC=C3SC12)C=1N(CCC1)C1=NCCC1 | C20H18ClN3S
